US08633308B2
5-(Perylen-3-ylethynyl)-5′-O-pivaloyl-2′,3′-dideoxyuridine
A solution of 5-iodo-5′-O-pivaloyl-2′,3′-dideoxyuridine (442 mg, 1 mmol) and 3-perylenylacetylene (345 mg, 1.25 mmol) in 10 mL of DMF was degassed three times by alternation between vacuum and argon. Then Pd(PPh3)4 (115 mg, 0.1 mmol), CuI (38 mg, 0.2 mmol) and Et3N (0.278 mL, 2 mmol) were added and the flask was degassed once again, filled with argon, and the mixture was stirred for 43 hours at ambient temperature. The mixture was diluted with 300 mL of EtOAc, washed 3×200 mL of water, dried with Na2SO4, and evaporated. Chromatography on a silica gel column using a 0 to 2% of EtOH/CHCl3 gradient gave rise to a chromatographically homogeneous (Rf 0.28, 5% EtOH/CHCl3) product as orange foam (545 mg, 96%). 1H-NMR (DMSO-d6): 11.85 (s, 1H, NH), 8.44 (d, 1H, J 7.8), 8.39-8.35 (m, 3H), 8.32 (d, 1H, J 8.2) (perylenyl), 8.06 (s, 1H, H-6), 7.83-7.81 (m, 2H), 7.69-7.60 (m, 2H), 7.58-7.53 (m, 2H) (perylenyl), 6.00 (dd, 1H, J1′,2′α 6.9 J1′,2′β 4.6, H-1′), 4.37-4.34 (m, 1H, H-4′), 4.32-4.26 (m, 2H, H-5′), 2.42-2.36 (m, 1H, H-2′), 2.17-2.12 (m, 1H, H-2′), 2.06-2.00 (m, 1H, H-3′), 1.90-1.83 (m, 1H, H-3′), 1.17 (s, 9H, tBu).

reactant | 5-iodo-5′-O-pivaloyl-2′,3′-dideoxyuridine | 1 mmol, 442 mg | IC=1C(NC(N([C@H]2CC[C@@H](COC(C(C)(C)C)=O)O2)C1)=O)=O | C14H19IN2O5
reactant | 3-perylenylacetylene | 1.25 mmol, 345 mg | C1=CC(=C2C=CC=C3C4=CC=CC5=CC=CC(C1=C23)=C45)C#C | C22H12
reactant | Et3N | 2 mmol, 0.278 mL | CCN(CC)CC | C6H15N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.1 mmol, 115 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 0.2 mmol, 38 mg | [Cu]I
product | 5-(Perylen-3-ylethynyl)-5′-O-pivaloyl-2′,3′-dideoxyuridine | 545 mg, 96% | C1=CC(=C2C=CC=C3C4=CC=CC5=CC=CC(C1=C23)=C45)C#CC=4C(NC(N([C@H]5CC[C@@H](COC(C(C)(C)C)=O)O5)C4)=O)=O | C36H30N2O5
